US05272147
5-(5-Chloromethyl-2-n-propoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one
1-Methyl-5-(2-n-propoxyphenyl)-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one (0.80 g, 0.00246 mol) was added portionwise to stirred concentrated hydrochloric acid (10 ml) at room temperature. Paraformaldehyde (0.20 g, 0.00246 mol) was then added and the resulting solution stirred at 120° C. for 22 hours. The reaction mixture was cooled and poured into ice and water (50 g), then the resulting mixture extracted with ethyl acetate (3×30 ml). The organic extracts were combined, dried (Na2SO4) and evaporated under vacuum to give a white solid. Trituration with ether, followed by crystallisation from ethyl acetate-hexane, gave the title compound as colourless crystals (0.65 g, 70%), m.p. 102°-104° C. Found: C,60.91; H,6.14; N,14.94. C19H23CIN4O2 requires C,60.88; H,6.18; N,14.95%.

reactant | 1-Methyl-5-(2-n-propoxyphenyl)-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 0.00246 mol, 0.80 g | CN1N=C(C=2N=C(NC(C21)=O)C2=C(C=CC=C2)OCCC)CCC | C18H22N4O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | Paraformaldehyde | 0.00246 mol, 0.20 g | C=O | CH2O
solvent | water | 50 g | O | H2O
product | 5-(5-Chloromethyl-2-n-propoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 0.65 g, 70% | ClCC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCCC | C19H23ClN4O2
